### ISSUE TITLE
Vector.getElem_take range proof not resolved by unification

### ISSUE THREAD

**Issue by JamesGallicchio** [leanprover/lean4#7212]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In #6324 a lemma `Vector.getElem_take` was added (see [here](https://github.com/leanprover/lean4/blame/f50b863868a3625dfbca4fd2ad777d187632b1d4/src/Init/Data/Vector/Lemmas.lean#L2398)), but there is a small typo in the type of the range hypothesis: `hi : i < min n m` instead of `hi : i < min m n`.

As a result, rather than `get_elem_tactic` inserting `hi` via `assumption`, it inserts a non-trivial proof to commute `min n m = min m n`. Importantly, this means `hi` is not resolved via unification when `simp` tries to apply it, and therefore `simp` fails to apply in most cases.

### Context

https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Vector.20refactor/near/500330457

### Steps to Reproduce

```
import Mathlib

example (k₁ k₂ : Vector α n) (h : j₁ < n) :
  (k₁.take n)[j₁] = (k₂.take n)[j₁] := by
  simp only [Vector.getElem_take] -- no progress
  sorry

@[simp] theorem getElem_take' (a : Vector α n) (m : Nat) (hi : i < min m n) :
    (a.take m)[i] = a[i] := by
  cases a; simp

example (k₁ k₂ : Vector α n) (h : j₁ < n) :
  (k₁.take n)[j₁] = (k₂.take n)[j₁] := by
  simp only [getElem_take'] -- progress
  sorry
```

**Expected behavior:** `simp` successfully rewrites with `Vector.getElem_take`

**Actual behavior:** `simp` fails with no progress

### Versions

Lean 4.17.0-rc1 on live.lean-lang.org

### Additional Information

[Additional information, configuration or data that might be necessary to reproduce the issue]

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by keithadler** [comment]
No longer reproduces — `simp only [Vector.getElem_take]` now applies. On `v4.34.0-rc2` with current Mathlib:

```lean
import Mathlib
example (k₁ k₂ : Vector α n) (h : j₁ < n) :
    (k₁.take n)[j₁] = (k₂.take n)[j₁] := by
  simp only [Vector.getElem_take]
  -- goal is now `k₁[j₁] = k₂[j₁]` (as expected; not provable without k₁ = k₂)
  sorry
```

There is no "made no progress" error, and `set_option trace.Meta.Tactic.simp.rewrite true` shows `Vector.getElem_take` firing on both sides — so the range/`min` proof that previously blocked unification is resolved, and the custom `getElem_take'` workaround from the report is no longer needed.

Suggest closing.

Triage assisted by Claude; repro run and checked manually.
